US06159971
N-(Morpholinocarbonylphenyl)-8-(4-methylpiperazin-1-yl)-5-methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxamide
A solution of N-(morpholinocarbonylphenyl)-8-amino-5-methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxamide (280 mg, 0.69 mmol), bis (2-chloroethyl)methyl amine hydrochloride (190 mg, 1.0 mmol) and sodium hydrogen carbonate (84 mg, 1.0 mmol) in n-butanol (20 mL) was heated at 90° C. for 5 h. After cooling, 2 M ammonium hydroxide (10 mL) was added and the mixture was heated at 50° C. for 1 h. The organic phase was evaporated in vacuo and the residue was purified by flash chromatography on a silica gel column using chloroform/ethanol/conc. ammonium hydroxide (90:10:0.5) as eluent to yield 60 mg (18%) of the title compound: EIMS (70 eV) m/z (relative intensity) 492 (50, M+).

reactant | N-(morpholinocarbonylphenyl)-8-amino-5-methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 0.69 mmol, 280 mg | O1CCN(CC1)C(=O)C1=C(C=CC=C1)NC(=O)C1CC2=C(C=CC(=C2CC1)OC)N | C23H27N3O4
reactant | bis (2-chloroethyl)methyl amine hydrochloride | 1.0 mmol, 190 mg | Cl.ClCCN(C)CCCl
reactant | sodium hydrogen carbonate | 1.0 mmol, 84 mg | C(O)([O-])=O.[Na+]
reactant | ammonium hydroxide | 2 M, 10 mL | [OH-].[NH4+]
solvent | n-butanol | 20 mL | C(CCC)O | C4H10O
product | N-(Morpholinocarbonylphenyl)-8-(4-methylpiperazin-1-yl)-5-methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 60 mg, 18% | O1CCN(CC1)C(=O)C1=C(C=CC=C1)NC(=O)C1CC2=C(C=CC(=C2CC1)OC)N1CCN(CC1)C | C28H36N4O4
